US05679671
(2R,3S)-2-Acetylthio-3-methylpentanoic acid
2.11 g (10.8 mmol) of (2R,3S)-2-bromo-3-methylpentanoic acid obtained in the Synthesis Example C-1 was dissolved in 43 ml of acetonitrile and 1.42 g of potassium thioacetate was added thereto at 0° C. The mixture was stirred at0° C. for 30 minutes and then at room temperature for 5 hours. After filtering off the insoluble matters, the filtrate was concentrated. To the residue were added ether and a saturated aqueous solution of sodium hydrogencarbonate, followed by separation. The aqueous phase was acidified by adding a 2N aqueous solution of hydrochloric acid at a low temperature and then extracted with ether. The ether phase was washed with a saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated. Thus, 1.68 g of the title compound was obtained as a colorless oil (yield 82%).

reactant | (2R,3S)-2-bromo-3-methylpentanoic acid | 10.8 mmol, 2.11 g | Br[C@@H](C(=O)O)[C@H](CC)C | C6H11BrO2
reactant | potassium thioacetate | 1.42 g | C(C)(=S)[O-].[K+]
solvent | acetonitrile | 43 ml | C(C)#N | C2H3N
product | (2R,3S)-2-Acetylthio-3-methylpentanoic acid | 1.68 g | C(C)(=O)S[C@@H](C(=O)O)[C@H](CC)C | C8H14O3S
